US04571396
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid
A solution of 10.2 g (25 mmole) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(ethoxycarbonyl)-1-piperazinyl]-1,8-naphthyridine-3-carboxylic acid, 100 ml of 10% aqueous sodium hydroxide and 40 ml of ethanol was refluxed for three hours. The solution was concentrated to 125 ml and acidified to pH 7.3 with glacial acetic acid. The resulting precipitate was removed by filtration, washed with 50% aqueous ethanol, ether and dried in vacuo to give 7.2 g of the title compound, mp 274°-276°.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(ethoxycarbonyl)-1-piperazinyl]-1,8-naphthyridine-3-carboxylic acid | 25 mmole, 10.2 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCN(CC1)C(=O)OCC)F)=O)C(=O)O | C19H21FN4O5
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid | 7.2 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCNCC1)F)=O)C(=O)O | C16H17FN4O3
